US08008334B2
a) 8-Pyridin-4-yl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine
In analogy to Example 1 6,7-dihydro-5H-imidazo[1,5-a]pyridin-8-one [426219-51-4] and 4-iodopyridine [15854-87-2] are reacted. The title compound is obtained as a light brown foam. Rt=2.26 (Gradient I).

reactant | 6,7-dihydro-5H-imidazo[1,5-a]pyridin-8-one | C=1N=CN2C1C(CCC2)=O | C7H8N2O
reactant | 4-iodopyridine | IC1=CC=NC=C1 | C5H4IN
product | 8-Pyridin-4-yl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine | N1=CC=C(C=C1)C1C=2N(CCC1)C=NC2 | C12H13N3
